US04954507
(1R, 4R)-2-(4-TOLUENESULFONYL)-5-PHENYLMETHYL-2,5-DIAZABICYCLO-[2.2.1]-HEPTANE (8)
A mixture of 2697 g (4.653 moles) of (2R, 4S)-1-(4-toluenesulfonyl)-2-(4-toluenesulfonyloxymethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine and 1640 g (15.304 moles) of benzylamine in 15 L of toluene was heated under reflux. After 6 hours 100 g of benzylamine were added and the reflux continued for 3 hours. The mixture was cooled, filtered and the residue was washed with 5 L of toluene. The combined organic layers were evaporated to dryness and the resulting solid was taken up with 2 L of isopropanol. After cooling the product was filtered, washed with cold isopropanol and dried under reduced pressure to give 1434 g of the titled compound. (90%). M.P. =124° C. [α]D =-15.72° (c=1.6, acetone)

reactant | (2R, 4S)-1-(4-toluenesulfonyl)-2-(4-toluenesulfonyloxymethyl)-4-(4-toluenesulfonyloxy)-pyrrolidine | 4.653 moles, 2697 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)COS(=O)(=O)C1=CC=C(C=C1)C)C | C26H29NO8S3
reactant | benzylamine | 15.304 moles, 1640 g | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 100 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 15 L | C1(=CC=CC=C1)C | C7H8
product | (1R, 4R)-2-(4-TOLUENESULFONYL)-5-PHENYLMETHYL-2,5-DIAZABICYCLO-[2.2.1]-HEPTANE | 1434 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H]2CN([C@@H](C1)C2)CC2=CC=CC=C2)C | C19H22N2O2S
